US03944509
The procedure of Example 1 was repeated except that the starting materials were α-methylolbenzoin and furfural. The product 2-furyl-4-benzoyl-4-phenyl-1,3-dioxolane, was obtained in a yield of 78% and analyzed as follows:

reactant | α-methylolbenzoin | C(O)C(C(C1=CC=CC=C1)=O)(O)C1=CC=CC=C1 | C15H14O3
reactant | furfural | C(C1=CC=CO1)=O | C5H4O2
product | 2-furyl-4-benzoyl-4-phenyl-1,3-dioxolane | yield of 78% | O1C(=CC=C1)C1OCC(O1)(C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C20H16O4
